US04226866
Benzhydryl (2-oxo-3-azido-4-[3-keto-4-methanesulfonyloxybutyl]-N-azetidinyl)diethylphosphonoacetate
Benzhydryl (2-oxo3-azido-4-[3-keto-4-hydroxybutyl]-N-azetidinyl)diethylphosphonoacetate, 251 mg., is treated at 0° under N2 in 22 ml. CH2Cl2 with 0.056 ml. methanesulfonyl chloride for 5 min., and then .100 ml. triethylamine is added. After 2 min. more at 0° and 30 min. at 25°, the solvent is evaporated and the product chromatographed by PLC, eluting with 10:3 CHCl3 -acetone, affording 197 mg. pure benzyhydryl (2-oxo-3-azido-4-[3-keto-4-methanesulfonyloxybutyl]-N-azetidinyl)diethylphosphonoacetate. NMR (δ, CDCl3): 1.24 m, POCH2CH3 ; 2.0-2.5 m, CH2CH2 ; 3.14 s, CH3SO2 ; 3.8-4.4 m, POCH2CH3 ; 4.71 s, COCH2OSO2Me; 5.09 d, J=22, CHP; 6.93 s, CHφ2 ; 7.36 s, Ar. IR (μ, film): 4.73, azido; 5.64, β-lactam; 5.72, ester.

reactant | Benzhydryl (2-oxo3-azido-4-[3-keto-4-hydroxybutyl]-N-azetidinyl)diethylphosphonoacetate | O=C1N(C(C1N=[N+]=[N-])CCC(CO)=O)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)P(=O)(OCC)OCC | C26H31N4O8P
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2-oxo-3-azido-4-[3-keto-4-methanesulfonyloxybutyl]-N-azetidinyl)diethylphosphonoacetate | O=C1N(C(C1N=[N+]=[N-])CCC(COS(=O)(=O)C)=O)C(C(=O)[O-])P(=O)(OCC)OCC
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Benzhydryl (2-oxo-3-azido-4-[3-keto-4-methanesulfonyloxybutyl]-N-azetidinyl)diethylphosphonoacetate | O=C1N(C(C1N=[N+]=[N-])CCC(COS(=O)(=O)C)=O)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)P(=O)(OCC)OCC | C27H33N4O10PS
